US09447139B2
Cholesterol (7.76 mmol, 3.0 g) and triphenylphosphine (7.76 mmol, 2.04 g) were dissolved in 77.6 mL of anhydrous tetrahydrofuran. Diisopropyl azodicarboxylate (7.76 mmol, 1.5 mL) was then added dropwise. After stirring the orange mixture for a few minutes, diphenylphosphoryl azide (7.76 mmol, 1.68 mL) was added dropwise. After 24 hours, the pale yellow reaction mixture was concentrated. Purification by silica gel chromatography (100% hexanes) afforded 3α-azidocholest-5-ene (2.14 g, 67%) as a white solid. mp 110-112° C.; TLC Rf=0.87 (20% ethyl acetate/hexanes); IR (thin film) 2946, 2914, 2845, 2083 cm−1; 1H NMR (300 MHz, CDCl3) δ 5.42-5.40 (m, 1H), 3.89 (t, 1H, J=2.9 Hz), 2.58-2.49 (m, 1H), 2.23-2.16 (m, 1H), 2.16-1.93 (m, 2H), 1.89-1.05 (m, 24H), 1.02 (s, 3H), 0.93 (d, 3H, J=6.5 Hz), 0.88 (d, 6H, J=6.6 Hz), 0.69 (s, 3H).

reactant | Cholesterol | 7.76 mmol, 3.0 g | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | C27H46O
reactant | triphenylphosphine | 7.76 mmol, 2.04 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 7.76 mmol, 1.5 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | diphenylphosphoryl azide | 7.76 mmol, 1.68 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | tetrahydrofuran | 77.6 mL | O1CCCC1 | C4H8O
product | 3α-azidocholest-5-ene | 2.14 g, 67% | N(=[N+]=[N-])[C@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H45N3
